* Schematics Netlist *



R_R2         0 2  20k  
V_V1         1 0 6
D_D1         1 2 D1N4002 
D_D2         2 3 D1N4002 
R_R3         0 3  10k  
