* Schematics Netlist *



V_V1         1 0 6
R_R3         0 3  10k  
D_D2         3 2 D1N4002 
R_R2         4 2  20k  
D_D1         1 2 D1N4002 
D_D3         4 0 D1N4002 
